************************************************************************
* auCdl Netlist:
* 
* Library Name:  NangateOpenCellLibrary
* Top Cell Name: OR2_X1
* View Name:     schematic
* Netlisted on:  Mar 12 09:42:09 2018
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS!
+        VDD!

*.PIN VSS!
*+    VDD!

************************************************************************
* Library Name: NangateOpenCellLibrary
* Cell Name:    OR2_X1
* View Name:    schematic
************************************************************************

.SUBCKT OR2_X1 A1 A2 VDD! VSS! ZN
*.PININFO A1:I A2:I VDD!:I VSS!:I ZN:O
MM_i_2 ZN_neg A1 VSS! VSS! NM W=2.1E-07 L=5E-08
MM_i_3 VSS! A2 ZN_neg VSS! NM W=2.1E-07 L=5E-08
MM_i_0 ZN ZN_neg VSS! VSS! NM W=4.15E-07 L=5E-08
MM_i_4 net_0 A1 ZN_neg VDD! PM W=3.15E-07 L=5E-08
MM_i_5 VDD! A2 net_0 VDD! PM W=3.15E-07 L=5E-08
MM_i_1 ZN ZN_neg VDD! VDD! PM W=6.3E-07 L=5E-08
.ENDS

