************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC471_lib
* Top Cell Name: inv_chain
* View Name:     schematic
* Netlisted on:  Dec  6 00:52:10 2017
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: ECEC471_lib
* Cell Name:    inv_chain
* View Name:    schematic
************************************************************************

.SUBCKT inv_chain in out
*.PININFO in:I out:O
MM5 out net10 gnd! gnd! NMOS_VTH W=140.0n L=50n m=1
MM2 net10 net5 gnd! gnd! NMOS_VTH W=140.0n L=50n m=1
MM0 net5 in gnd! gnd! NMOS_VTH W=140.0n L=50n m=1
MM4 out net10 vdd! vdd! PMOS_VTH W=195.00n L=50n m=1
MM3 net10 net5 vdd! vdd! PMOS_VTH W=195.00n L=50n m=1
MM1 net5 in vdd! vdd! PMOS_VTH W=195.00n L=50n m=1
.ENDS

